US04559345
[4-Chloro-6-(N-methyl-2,3-xylidino)-2-pyrimidinyl]-thioacetic acid, ethyl ester (III, 25)
To a suspensione of ethyl 4,6-dichloro-2-pyrimidinylthioacetate (10.7 g) in ethanol (100 ml) anhydrous NaCO3 (4.66 g) and N-methyl-2,3-xylidine (6.2 g) are added; the mixture is refluxed under stirring for 24 hours.

reactant | ethyl 4,6-dichloro-2-pyrimidinylthioacetate | 10.7 g | ClC1=NC(=NC(=C1)Cl)CC(=S)OCC | C8H8Cl2N2OS
reactant | N-methyl-2,3-xylidine | 6.2 g | CNC1=C(C(=CC=C1)C)C | C9H13N
solvent | ethanol | 100 ml, 4.66 g | C(C)O | C2H6O
product | [4-Chloro-6-(N-methyl-2,3-xylidino)-2-pyrimidinyl]-thioacetic acid, ethyl ester | ClC1=NC(=NC(=C1)N(C1=C(C(=CC=C1)C)C)C)CC(=S)OCC | C17H20ClN3OS
